### PR TITLE
feat: `Nat`, `Fin` and `BitVec` theorems required for unsigned integers

### PR DESCRIPTION
**Pull request by TwoFX**
This PR splits off the required theory about `Nat`, `Fin` and `BitVec` from #7484.

### CODE REVIEW

File: src/Init/Data/BitVec/Lemmas.lean [hunk 1]
```diff
@@ -1702,6 +1702,10 @@ theorem allOnes_shiftLeft_or_shiftLeft {x : BitVec w} {n : Nat} :
     BitVec.allOnes w <<< n ||| x <<< n = BitVec.allOnes w <<< n := by
   simp [← shiftLeft_or_distrib]
 
+@[simp] theorem setWidth_shiftLeft_of_le (hi : i ≤ v) (a : BitVec v) (b : Nat) :
+    (a <<< b).setWidth i = a.setWidth i <<< b :=
+  eq_of_getElem_eq (fun j hj => Bool.eq_iff_iff.2 (by simp; omega))
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:1707]:
```suggestion
@[simp] theorem setWidth_shiftLeft_of_le {x : BitVec w} {y : Nat} (hi : i ≤ w)  :
    (x <<< y).setWidth i = x.setWidth i <<< y :=
  eq_of_getElem_eq (fun j hj => Bool.eq_iff_iff.2 (by simp; omega))
```

Again, just for your info, how would I have named things based on our previous conventions? Not a blocker.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 2]
```diff
@@ -4312,6 +4325,15 @@ theorem replicate_succ' {x : BitVec w} :
     (replicate n x ++ x).cast (by rw [Nat.mul_succ]) := by
   simp [replicate_append_self]
 
+theorem BitVec.setWidth_add_eq_mod (x y : BitVec w) : BitVec.setWidth i (x + y) = (BitVec.setWidth i x + BitVec.setWidth i y) % (BitVec.twoPow i w) := by
+  apply BitVec.eq_of_toNat_eq
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:4329]:
```suggestion
theorem BitVec.setWidth_add_eq_mod {x y : BitVec w} : BitVec.setWidth i (x + y) = (BitVec.setWidth i x + BitVec.setWidth i y) % (BitVec.twoPow i w) := by
  apply BitVec.eq_of_toNat_eq
```

This uses the naming convention I expect, but I would have made this implicit as well.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 3]
```diff
@@ -1853,6 +1857,15 @@ theorem msb_ushiftRight {x : BitVec w} {n : Nat} :
...
     simp [BitVec.ushiftRight_eq, getMsbD_ushiftRight, BitVec.msb, ih, show nn + 1 > 0 by omega]
 
+@[simp] theorem setWidth_ushiftRight (hi : v ≤ i) (a : BitVec v) (b : Nat):
+    (a >>> b).setWidth i = a.setWidth i >>> b := by
+  refine eq_of_getElem_eq (fun j hj => ?_)
+  simp only [getElem_setWidth, getLsbD_ushiftRight, getElem_ushiftRight, getLsbD_setWidth,
+    Bool.iff_and_self, decide_eq_true_eq]
+  intro ha
+  have := lt_of_getLsbD ha
+  omega
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:1867]:
```suggestion
@[simp] theorem setWidth_ushiftRight {x : BitVec w} {y : Nat} (hi : w ≤ i) :
    (x >>> y).setWidth i = x.setWidth i >>> y := by
  refine eq_of_getElem_eq (fun j hj => ?_)
  simp only [getElem_setWidth, getLsbD_ushiftRight, getElem_ushiftRight, getLsbD_setWidth,
    Bool.iff_and_self, decide_eq_true_eq]
  intro ha
  have := lt_of_getLsbD hx
  omega
```

**Review by tobiasgrosser — APPROVED** [review]
Thank you @TwoFX. This looks great. My approval is not needed, but here some comments that would help me to better understand our naming conventions.

File: src/Init/Data/BitVec/Bitblast.lean [hunk 4]
```diff
@@ -513,6 +513,8 @@ theorem msb_neg {w : Nat} {x : BitVec w} :
   rw [(show w = w - 1 + 1 by omega), Int.pow_succ] at this
   omega
 
+@[simp] theorem BitVec.setWidth_neg_of_le {x : BitVec v}  (h : w ≤ v) : BitVec.setWidth w (-x) = -BitVec.setWidth w x := by
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:516]:
```suggestion
@[simp] theorem BitVec.setWidth_neg_of_le {x : BitVec v} (h : w ≤ v) : BitVec.setWidth w (-x) = -BitVec.setWidth w x := by
```

**Comment by TwoFX** [comment]
Thanks for the review!  I should have paid closer attention to the conventions in the `BitVec` files.
